US07354924B2
Example 205 and 206. In a sealed tube -(4-benzoyl-piperazin-1-yl)-2-(7-chloro-1H-pyrrolo[3,2-b]pyridin-3-yl)-ethane-1,2-dione (30 mg, 0.076 mmol), 1H-1,2,3-triazole (160 mg, 2.3 mmol), Cu (0) (10 mg, 0.16 mmol) and K2CO3 (11 mg, 0.080 mmol) were heated at 160° C. for 16 h. The reaction mixture was diluted with MeOH, filtered through celite and concentrated. The reaction mixture was diluted with MeOH, filtered through celite and concentrated. The residue was purified by preparative HPLC to provide 1-(4-benzoyl-piperazin-1-yl)-2-(7-[1,2,3]triazol-2-yl-1H-pyrrolo[3,2-b]pyridin-3-yl)-ethane-1,2-dione: 1H NMR (300 MHz, CD3OD) δ 8.79 (d, J=6.6 Hz, 1H), 8.79 (s, 1H), 8.48 (d, J=6.6 Hz, 1H), 8.40 (s, 2H), 7.48 (br s, 5H), 4.00-3.55 (m, 8H). MS nz/z (M+H)+ calcd for C22H20N7O3: 430.15; found 430.29. HPLC retention time 0.91 min (Column G); and 1-(4-benzoyl-piperazin-1-yl)-2-(7-[1,2,3]triazol-1-yl-1H-pyrrolo[3,2-b]pyridin-3-yl)-ethane-1,2-dione: 1H NMR (300 MHz, CD3OD) δ 8.97 (d, J=81.2 Hz, 1H), 8.70 (d, J=5.6 Hz, 1H), 8.48 (s, 1H), 8.06 (d, J=1.2 Hz, 1H), 7.80 (d, J=5.6 Hz, 1H), 7.47 (br s, 5H), 4.00-3.45 (m, 8H). MS m/z (M+H)+ calcd for C22H20N7O3: 430.15; found 430.29. HPLC retention time 0.90 min (Column G).

reactant | (4-benzoyl-piperazin-1-yl)-2-(7-chloro-1H-pyrrolo[3,2-b]pyridin-3-yl)-ethane-1,2-dione | 0.076 mmol, 30 mg | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C(C(=O)C1=CNC=2C1=NC=CC2Cl)=O | C20H17ClN4O3
reactant | 1H-1,2,3-triazole | 2.3 mmol, 160 mg | N1N=NC=C1 | C2H3N3
reactant | K2CO3 | 0.080 mmol, 11 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | CO | CH4O
product | 1-(4-benzoyl-piperazin-1-yl)-2-(7-[1,2,3]triazol-2-yl-1H-pyrrolo[3,2-b]pyridin-3-yl)-ethane-1,2-dione | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C(C(=O)C1=CNC=2C1=NC=CC2N2N=CC=N2)=O | C22H19N7O3
